US05374723
(5) Synthesis of 1,3,3-trimethyl-2-methylenepiperidine
A mixture of 5 g of 2,3,3-trimethyl-3,4,5,6-tetrahydropyridine and 12 g of methyl tosylate was reacted at 100° C. for 4 hours. The reaction mixture was cooled and extracted with water/chloroform. Then, 2 g of sodium hydroxide was added to the water layer and the mixture was stirred. The liquid was extracted with chloroform. The chloroform layer was concentrated to obtain a yellow liquid.

reactant | 2,3,3-trimethyl-3,4,5,6-tetrahydropyridine | 5 g | CC1=NCCCC1(C)C | C8H15N
reactant | methyl tosylate | 12 g | S(=O)(=O)(OC)C1=CC=C(C)C=C1 | C8H10O3S
product | 1,3,3-trimethyl-2-methylenepiperidine | CN1C(C(CCC1)(C)C)=C | C9H17N
